US08563723B2
In 20 mL DCM, 0.28 g N-[Ethylamino-(4-ethyl-4,5-dihydro-pyrazol-1-yl)-methylene]-4-methoxy-benzenesulfonamide was dissolved, and 3.32 mL of a 1M solution of BBr3 in DCM was added. The mixture was stirred overnight at room temperature, extracted with 5% aqueous NaHCO3, dried over MgSO4 and evaporated to dryness. The residue was purified by flash chromatography (stepwise gradient DCM→DCM/MeOH 95:5) to yield 0.186 g (59%) of N-[Ethylamino-(4-ethyl-4,5-dihydro-pyrazol-1-yl)-methylene]-4-hydroxy-benzenesulfonamide. 1H NMR (400 MHz, CDCl3) δ 0.95 (t, J=7.52 Hz, 3H), 1.13 (t, J=7.22 Hz, 3H), 1.50 (dq, J=14.20, 7.00 Hz, 1H), 1.60 (dq, J=14.22, 7.00 Hz, 1H), 3.01-3.16 (m, 1H), 3.43-3.50 (m, 2H), 3.66 (dd, J=11.44, 7.52 Hz, 1H), 4.05 (t, J=11.29 Hz, 1H), 6.80 (br.s., 1H), 6.87 (d, J=8.73 Hz, 2H), 6.91 (d, J=1.50 Hz, 1H), 7.78 (d, J=8.73 Hz, 2H) [guanidine NH invisible].

reactant | N-[Ethylamino-(4-ethyl-4,5-dihydro-pyrazol-1-yl)-methylene]-4-methoxy-benzenesulfonamide | 0.28 g | C(C)NC(=NS(=O)(=O)C1=CC=C(C=C1)OC)N1N=CC(C1)CC | C15H22N4O3S
reactant | BBr3 | B(Br)(Br)Br | BBr3
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | N-[Ethylamino-(4-ethyl-4,5-dihydro-pyrazol-1-yl)-methylene]-4-hydroxy-benzenesulfonamide | 0.186 g, 59% | C(C)NC(=NS(=O)(=O)C1=CC=C(C=C1)O)N1N=CC(C1)CC | C14H20N4O3S
